US06048878
a) 1-tert-Butyloxycarbonyl-4benzyl-4-hydroxypiperidine
A solution of 4-benzyl-4-hydroxypiperidine (14.5 g, 75.8 mmol) in dichloromethane (150 ml) was treated portionwise with di-tert-butyl dicarbonate (16.55 g, 75.8 mmol) then stirred at ambient temperature for 4 hours. The solution was washed with 10% aqueous citric acid (50 ml), dried (sodium sulphate), then evaporated to afford a gum (23.8 g) which was purified by column chromatography on silica using ethyl acetate/petroleum ether (60-80) (1:1). The product was obtained (19.3 g, 87%) as a pale yellow solid, mp 87-88° C.; δH (360 MHz, DMSO-d6) 1.32-1.37 (13H, m, (CH3)3C and 2×CH2), 2.67 (2H, s, CH2Ph), 2.98-3.05 (2H, m, 2×CH), 3.63 (2H, d, J=12 Hz, 2×CH), 4.37 (1H, s, OH), 7.15-7.27 (5H, m, C6H5); m/z (ES) 292 (M+ +1).

reactant | 4-benzyl-4-hydroxypiperidine | 75.8 mmol, 14.5 g | C(C1=CC=CC=C1)C1(CCNCC1)O | C12H17NO
reactant | di-tert-butyl dicarbonate | 75.8 mmol, 16.55 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | 1-tert-Butyloxycarbonyl-4benzyl-4-hydroxypiperidine | 23.8 g | C(C)(C)(C)OC(=O)N1CCC(CC1)(O)CC1=CC=CC=C1 | C17H25NO3
